US06121271
3-Bromo-5-ethyl-4-methoxybenzoic acid
At ambient temperature, to a stirred mixture containing 2-bromo-4-(2-chlorobenzoyl)-6-ethylanisole (10.0 g, 28.2 mmol) and potassium t-butoxide (31.7 g, 0.283 mol) in ethylene glycol dimethyl ether (157 mL) was added H2O (1.52 mL). After 6 h, the reaction solids were collected by filtration and washed with ether (2×). The crude product was dissolved in H2O (200 mL), acidified with 2N HCl (pH <2) and stirred for 7 h. The precipitate was collected by filtration, washed with H2O (2×) and dried to give 5.37 g (73%) of the title compound. 1H NMR: consistent. mass spectrum (EI) m/z 258 (M+).

reactant | 2-bromo-4-(2-chlorobenzoyl)-6-ethylanisole | 28.2 mmol, 10.0 g | BrC1=C(C(=CC(=C1)C(C1=C(C=CC=C1)Cl)=O)CC)OC | C16H14BrClO2
reactant | potassium t-butoxide | 0.283 mol, 31.7 g | CC(C)([O-])C.[K+]
reactant | H2O | 1.52 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 157 mL | COCCOC | C4H10O2
product | 3-Bromo-5-ethyl-4-methoxybenzoic acid | 5.37 g, 73% | BrC=1C=C(C(=O)O)C=C(C1OC)CC | C10H11BrO3
